US04888439
N-(2.6.10-trimethyl-14-oxo-2,6,10-pentadecatrienoyl)-diisopropylamine
Starting materials: 2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoic acid and diisopropylamine.

reactant | 2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoic acid | CC(C(=O)O)=CCCC(=CCCC(=CCCC(C)=O)C)C | C18H28O3
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
product | N-(2.6.10-trimethyl-14-oxo-2,6,10-pentadecatrienoyl)-diisopropylamine | CC(C(=O)N(C(C)C)C(C)C)=CCCC(=CCCC(=CCCC(C)=O)C)C | C24H41NO2
